US04920116
N-[2-(Diethylamino)ethyl]-4-[(methylsulfonyl)amino]-N-(phenyl)benzamide hydrochloride
In a manner similar to Example I react N,N-diethyl-N'-phenyl-1,2-ethanediamine with 4-[(methylsulfonyl)amino]benzoyl chloride to obtain the title compound.

reactant | N,N-diethyl-N'-phenyl-1,2-ethanediamine | C(C)N(CCNC1=CC=CC=C1)CC | C12H20N2
reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
product | N-[2-(Diethylamino)ethyl]-4-[(methylsulfonyl)amino]-N-(phenyl)benzamide hydrochloride | Cl.C(C)N(CCN(C(C1=CC=C(C=C1)NS(=O)(=O)C)=O)C1=CC=CC=C1)CC | InChI=1S/C20H27N3O3S.ClH/c1-4-22(5-2)15-16-23(19-9-7-6-8-10-19)20(24)17-11-13-18(14-12-17)21-27(3,25)26;/h6-14,21H,4-5,15-16H2,1-3H3;1H
